US07378417B2
7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(2,2-dimethyl-propylsulfamoyl)-phenyl]-amide
The title compound was prepared from 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.2) and 3-amino-N-(2,2-dimethyl-propyl)-benzenesulfonamide (example B.4) according to general procedure II. Light yellow solid. MS (ISP) 598.1 [(M−H−]; mp 231° C.

reactant | 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)(F)F | C15H7F6N3O2
reactant | 3-amino-N-(2,2-dimethyl-propyl)-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NCC(C)(C)C | C11H18N2O2S
product | 7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(2,2-dimethyl-propylsulfamoyl)-phenyl]-amide | CC(CNS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F)(C)C | C26H23F6N5O3S
